US06455548B2
1-(2,4-Dichlorobenzyl)-3-(R)-formyl-4-(S)-(3-thienyl)pyrrolidine
To a solution of 0.31 mL (3.6 mmol) of oxalyl chloride in 20 mL of CH2Cl2 at −78° C. was added 0.51 mL (7.2 mmol) of DMSO and the reaction mixture was stirred. After 10 min., a solution of 0.49 g (1.8 mmol) of 1-(2,4-dichlorobenzyl)-3-(R)-hydroxymethyl-4-(S)-(3-thienyl)pyrrolidine in 20 mL of CH2Cl2 was then added. After stirring for 10 min. at −78° C., the reaction was allowed to warm to rt. The reaction mixture was poured into ether and extracted twice with sat'd NaHCO3 solution and once with sat'd NaCl solution. The organic fraction was dried over Na2SO4, filtered and the filtrate was concentrated to give 0.49 g of the title compound. Mass Spectrum (ESI) m/e=340 (M+1 35Cl, 35Cl), 342 (M+1 35Cl, 37Cl), and 344 (M+1 37Cl, 37Cl).

reactant | oxalyl chloride | 3.6 mmol, 0.31 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 7.2 mmol, 0.51 mL | CS(=O)C | C2H6OS
reactant | 1-(2,4-dichlorobenzyl)-3-(R)-hydroxymethyl-4-(S)-(3-thienyl)pyrrolidine | 1.8 mmol, 0.49 g | ClC1=C(CN2C[C@@H]([C@H](C2)C2=CSC=C2)CO)C=CC(=C1)Cl | C16H17Cl2NOS
reactant | ether | CCOCC | C4H10O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,4-Dichlorobenzyl)-3-(R)-formyl-4-(S)-(3-thienyl)pyrrolidine | 0.49 g | ClC1=C(CN2C[C@@H]([C@H](C2)C2=CSC=C2)C=O)C=CC(=C1)Cl | C16H15Cl2NOS
